US05728699
Preparation of 4-Chloro-4'-difluoromethylthiomethyl-benzophenone (Compound No. VI-15)
4-chloro-4'-mercaptomethylbenzophenone (14.7 g) and potassium hydroxide (15 g) was added to a solvent comprising dioxane (100 ml) and water (100 ml). Difluoromethyl chloride was blown into this solution at 60° C. until the starting material 4-chloro-4'-mercaptomethylbenzophenone disappeared. The reaction product was cooled to room temperature and then subjected to filtration. The organic layer as the filtrate was dried over anhydrous magnesium sulfate add concentrated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1) to obtain the desired product (6.4 g, melting point: 34° to 35° C., yield: 36%).

reactant | 4-chloro-4'-mercaptomethylbenzophenone | 14.7 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CS)C=C1 | C14H11ClOS
reactant | potassium hydroxide | 15 g | [OH-].[K+]
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
reactant | Difluoromethyl chloride | FC(F)Cl | CHClF2
solvent | water | 100 ml | O | H2O
product | 4-Chloro-4'-difluoromethylthiomethyl-benzophenone | 6.4 g, yield: 36% | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CSC(F)F)C=C1 | C15H11ClF2OS
